US05536725
A suspension of 1.2 grams of (0.010 mole) of N-cyano-S-methylisothiourea [prepared in the manner disclosed by R. W. Turner; Synthesis, 332 (1975)], 2.1 grams (0.010 mole) of 4-(2-chlorophenyl)cyclohexanone and 0.4 gram (0.005 mole) of pyrrolidine is placed in a glass tube, which is then sealed. The sealed tube is heated at 150° C. for about seven hours. After this time, the sealed tube is cooled in an ice-bath and opened. The reaction mixture is concentrated under reduced pressure to a residue. The residue is subjected to column chromatography using silica gel, yielding 4-amino-2-methylthio-6-(2-chlorophenyl)-5,6,7,8-tetrahydroquinazoline.

reactant | N-cyano-S-methylisothiourea | 0.010 mole, 1.2 grams | C(#N)NC(SC)=N | C3H5N3S
reactant | 4-(2-chlorophenyl)cyclohexanone | 0.010 mole, 2.1 grams | ClC1=C(C=CC=C1)C1CCC(CC1)=O | C12H13ClO
reactant | pyrrolidine | 0.005 mole, 0.4 gram | N1CCCC1 | C4H9N
product | 4-amino-2-methylthio-6-(2-chlorophenyl)-5,6,7,8-tetrahydroquinazoline | NC1=NC(=NC=2CCC(CC12)C1=C(C=CC=C1)Cl)SC | C15H16ClN3S
